US07300935B2
Production of ethyl 2-[N-(2,6-difluorobenzyl)-N-ethoxycarbonylamino]-4-[N-(2-methoxyethyl)-N-methylaminomethyl]-5-(4-aminophenyl)thiophene-3-carboxylate
A solution of 2N hydrochloride in diethyl ether (21 ml) and 10% palladium-carbon (50% wet, 3.73 g) were added to a solution of ethyl 2-[N-(2,6-difluorobenzyl)-N-ethoxycarbonylamino]-4-[N-(2-methoxyethyl)-N-methylaminomethyl]-5-(4-nitrophenyl)thiophene-3-carboxylate (12.43 g) (JP-A-2001-278884, WO 00/56739) in ethanol (315 ml). The mixture was stirred vigorously under hydrogen atmosphere for 1 hour. The catalyst was removed, and the filtrate was neutralized with sodium hydrogen carbonate solution. The solvent was distilled off, and the residue was distributed between ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was subjected to an NH-silica gel (Fuji Silysia Chemical) chromatography to give the title compound (11.44 g) as an oil.

reactant | hydrochloride | 2N | Cl | ClH
reactant | ethyl 2-[N-(2,6-difluorobenzyl)-N-ethoxycarbonylamino]-4-[N-(2-methoxyethyl)-N-methylaminomethyl]-5-(4-nitrophenyl)thiophene-3-carboxylate | 12.43 g | FC1=C(CN(C(=O)OCC)C=2SC(=C(C2C(=O)OCC)CN(C)CCOC)C2=CC=C(C=C2)[N+](=O)[O-])C(=CC=C1)F | C28H31F2N3O7S
solvent | diethyl ether | 21 ml | C(C)OCC | C4H10O
solvent | ethanol | 315 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 3.73 g | [C].[Pd]
product | ethyl 2-[N-(2,6-difluorobenzyl)-N-ethoxycarbonylamino]-4-[N-(2-methoxyethyl)-N-methylaminomethyl]-5-(4-aminophenyl)thiophene-3-carboxylate | 11.44 g | FC1=C(CN(C(=O)OCC)C=2SC(=C(C2C(=O)OCC)CN(C)CCOC)C2=CC=C(C=C2)N)C(=CC=C1)F | C28H33F2N3O5S
